US07790709B2
Preparation of (E)-N-Acenaphthen-5-ylmethyl-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2 oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting acenaphthen-5-ylmethyl-methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (175 mg, 43%) was prepared as a pale yellow solid: 1H NMR (300 MHz, DMSO-d6) δ 10.15-10.11 (m, 2H), 8.41-8.33 (m, 1H), 7.98-7.96 (m, 1H), 7.88-7.74 (m, 1H), 7.60-7.44 (m, 2H), 7.38-7.12 (m, 4H), 5.23-5.01 (m, 2H), 4.55-4.46 (m, 2H), 4.00-3.96 (m, 2H), 3.86-3.36 (m, 10H), 3.12-2.89 (m, 7H); MS (ESI) m/e 512 (M+H)+.

reactant | (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | acenaphthen-5-ylmethyl-methylamine | C1CC2=CC=C(C3=CC=CC1=C23)CNC | C14H15N
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-N-Acenaphthen-5-ylmethyl-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2 oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 175 mg, 43% | Cl.C1CC2=CC=C(C3=CC=CC1=C23)CN(C(\C=C\C2=CC3=C(NC(N(C3)CCN3CCOCC3)=O)N=C2)=O)C | InChI=1S/C30H33N5O3.ClH/c1-33(19-24-9-8-23-7-6-22-3-2-4-26(24)28(22)23)27(36)10-5-21-17-25-20-35(30(37)32-29(25)31-18-21)12-11-34-13-15-38-16-14-34;/h2-5,8-10,17-18H,6-7,11-16,19-20H2,1H3,(H,31,32,37);1H/b10-5+;
